US07598286B2
Step D: (3-hydroxyphenyl)(1-isobutyl-1H-indazol-3-yl)methanone
[3-(tert-Butyl-diphenyl-silanyloxy)-phenyl]-(1-isobutyl-1H-indazol-3-yl)-methanone (0.650 g, 0.0012 mol) was dissolved in dry THF (1 mL) in a glass vial. The vial was cooled to −78 C in a dry ice/acetone bath. TBAF (1.8 mL of a 1 M soln., 0.0018 mol) was added. The vial was removed from the bath and stirred until a dark yellow color persisted (approx. 1 minute). The vial was placed back in the bath and the progress of the reaction was followed by TLC. When complete, the reaction was quenched with aqueous HCl (1-2N), adsorbed on a small plug of silica gel, and chromatographed with hexane/ethyl acetate (10:1) to give the desired product.

reactant | [3-(tert-Butyl-diphenyl-silanyloxy)-phenyl]-(1-isobutyl-1H-indazol-3-yl)-methanone | 0.0012 mol, 0.650 g | C(C)(C)(C)[Si](OC=1C=C(C=CC1)C(=O)C1=NN(C2=CC=CC=C12)CC(C)C)(C1=CC=CC=C1)C1=CC=CC=C1 | C34H36N2O2Si
reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | (3-hydroxyphenyl)(1-isobutyl-1H-indazol-3-yl)methanone | OC=1C=C(C=CC1)C(=O)C1=NN(C2=CC=CC=C12)CC(C)C | C18H18N2O2
